US05688799
A mixture of intermediate (13) (0.012 mol), 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole monohydrochloride (0.010 mol) and sodium carbonate (0.025 mol) in N,N-dimethylformamide (50 ml) was stirred for 6 hours at 80°-90° C. The reaction mixture was filtered and the filtrate was evaporated. Water was added to the residue and this mixture was extracted with dichloromethane. The separated organic layer was dried (MgSO4), filtered and the solvent was evaporated. The residue was purified by column chromatography over silica gel (eluent: CH2Cl2 /CH3OH 95/5). The pure fractions were collected and the solvent was evaporated. The residue was crystallized from acetonitrile/2,2'-oxybispropane. The crystals were filtered off and dried, yielding 1.6 g (36%) of (±)-3-[2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl]-6,7,8,9-tetrahydro-9-methoxy-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one; mp. 130.8° C. (comp. 7).

reactant | 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole monohydrochloride | 0.010 mol | Cl.FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1
reactant | sodium carbonate | 0.025 mol | C([O-])([O-])=O.[Na+].[Na+]
reactant | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | (±)-3-[2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl]-6,7,8,9-tetrahydro-9-methoxy-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one | 1.6 g, 36% | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCC2=C(N=C3N(C2=O)CCCC3OC)C)C=C1 | C24H29FN4O3
